US06075034
(4-Fluoro-phenyl)-[1-(cis-4-isopropyl-cyclohexyl)-piperidin-4-ylidene]-amin
cis-1-(4-Isopropyl-cyclohexyl)-piperidine-4-on (5.0 g, 23.4 mmol), 4-fluoro aniline (3.3 g, 35.3 mmol) and molecular sieves (20 g, 4A) were stirred in 100 ml pentane at room temperature for 6 days. The molecular sieves was filtered off and the solvent was evaporated. The crude product was used without any further purification for the following step.

reactant | cis-1-(4-Isopropyl-cyclohexyl)-piperidine-4-on | 23.4 mmol, 5.0 g | C(C)(C)[C@H]1CC[C@H](CC1)N1CCC(CC1)=O | C14H25NO
reactant | 4-fluoro aniline | 35.3 mmol, 3.3 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | pentane | 100 ml | CCCCC | C5H12
product | (4-Fluoro-phenyl)-[1-(cis-4-isopropyl-cyclohexyl)-piperidin-4-ylidene]-amin | FC1=CC=C(C=C1)N=C1CCN(CC1)[C@@H]1CC[C@@H](CC1)C(C)C | C20H29FN2
